US08809336B2
16B. 4-Benzylpiperidine-1,4-dicarboxylic acid mono-tert-butyl ester
To a solution of 4-benzylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.772 g, 5.315 mmol) in dioxane (24 ml), methanol (12 ml), and water (12 ml) at room temperature was added lithium hydroxide monohydrate (4.460 g, 106.292 mmol). After stirring at 50° C. for 2 days the solution was acidified to pH 6 using 2M HCl and the resulting white precipitate extracted with diethyl ether (2×100 ml). The organic phases were combined, dried over sodium sulphate and concentrated to dryness to give the acid as a white solid (1.477 g, 87%). LC/MS (LCT): Rt 7.37 [M+H]+ 319.

reactant | 4-benzylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 5.315 mmol, 1.772 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C19H27NO4
reactant | water | 12 ml | O | H2O
reactant | lithium hydroxide monohydrate | 106.292 mmol, 4.460 g | O.[OH-].[Li+]
reactant | HCl | 2M | Cl | ClH
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 12 ml | CO | CH4O
product | 4-Benzylpiperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 1.477 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=CC=C1 | C18H25NO4
